US04521430
1.2 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 1.08 g of 3-methoxy-4-nitrobenzoic acid and 0.96 g of dicyclohexylcarbodiimide are dissolved in a mixture of 30 ml of methylene chloride and 8 ml of dimethylformamide under ice-cooling. A catalytic amount of 4-(dimethylamino)pyridine is added to the solution, and said mixture is stirred at room temperature overnight. After the reaction, the precipitates are removed by filtration. The filtrate is washed with an aqueous potassium carbonate solution and then with water, dried and evaporated to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:methanol=20:0.3). 1.2 g of (+)-cis-2-(4-methoxyphenyl)-3-(3-methoxy-4-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are thereby obtained as an oil. Yield: 67.4%.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | 3-methoxy-4-nitrobenzoic acid | 1.08 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | dicyclohexylcarbodiimide | 0.96 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (+)-cis-2-(4-methoxyphenyl)-3-(3-methoxy-4-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g, Yield: 67.4% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O)=O)CCN(C)C)C=CC=C2 | C28H29N3O7S
